US07777047B2
ethyl 1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate
A mixture of ethyl 1-(methoxymethyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate (1.03 g), methyl iodide (0.24 ml), potassium carbonate (0.36 g) and N,N-dimethylformamide (10 ml) was stirred overnight at room temperature. Water was added to the reaction mixture, and the resulting crystals were collected by filtration, washed with water, and dried to give the title compound (1.06 g, yield 99%) as colorless crystals. melting point 143-145° C.

reactant | ethyl 1-(methoxymethyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 1.03 g | COCN1C(=CC2=CC=CC(=C12)NS(=O)(=O)C=1SC=CC1)C(=O)OCC | C17H18N2O5S2
reactant | methyl iodide | 0.24 ml | CI | CH3I
reactant | potassium carbonate | 0.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl 1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 1.06 g, yield 99% | COCN1C(=CC2=CC=CC(=C12)N(S(=O)(=O)C=1SC=CC1)C)C(=O)OCC | C18H20N2O5S2
